US03968143
One gram of 2-(4-phenoxymethylphenoxy)-propionitrile (obtainable from 4-phenoxymethylphenol and 2-bromopropionitrile) is refluxed in 15 ml. of ethanol and 2 ml. of water with 2 g. of KOH for 40 hours. The mixture is then evaporated and worked up as usual, yielding 2-(4-phenoxymethylphenoxy)-propionic acid.

reactant | 2-(4-phenoxymethylphenoxy)-propionitrile | One gram | O(C1=CC=CC=C1)CC1=CC=C(OC(C#N)C)C=C1 | C16H15NO2
reactant | ethanol | C(C)O | C2H6O
reactant | KOH | [OH-].[K+]
reactant | water | O | H2O
product | 2-(4-phenoxymethylphenoxy)-propionic acid | O(C1=CC=CC=C1)CC1=CC=C(OC(C(=O)O)C)C=C1 | C16H16O4
